US08703768B2
Step 3: Ethyl 3-(4-amino-3-(methylcarbamoyl)phenyl)propanoate
To a stirred solution of (E)-ethyl 3-(3-(methylcarbamoyl)-4-nitrophenyl)acrylate (345 mg, 1.24 mmol) in ethanol (10 ml) at r.t. under an argon atmosphere was added 10% Pd/C (52.8 mg, 496 μmol). The black suspension was hydrogenated at normal pressure and r.t. overnight. The catalyst was removed by filtration. The filtrate was concentrated. The crude product was purified by silica gel chromatography using a methylenchloride/MeOH gradient to give the title compound (175 mg, 57%) as white solid.

reactant | (E)-ethyl 3-(3-(methylcarbamoyl)-4-nitrophenyl)acrylate | 1.24 mmol, 345 mg | CNC(=O)C=1C=C(C=CC1[N+](=O)[O-])/C=C/C(=O)OCC | C13H14N2O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 496 μmol, 52.8 mg | [Pd] | Pd
product | Ethyl 3-(4-amino-3-(methylcarbamoyl)phenyl)propanoate | 175 mg, 57% | NC1=C(C=C(C=C1)CCC(=O)OCC)C(NC)=O | C13H18N2O3
